2121-01-10 06:54:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: Respiratory Distress
   24 Hour Events:
   - Had triple lumen left IJ central venous catheter placed
   - Had arterial line placed
   - Continues on fentanyl and Versed for sedation
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin - [**2121-1-9**] 11:39 PM
   Azithromycin - [**2121-1-10**] 12:42 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-10**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.2
   HR: 68 (68 - 84) bpm
   BP: 95/52(67) {68/51(58) - 103/58(73)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 96%
    CVP: 8 (8 - 18)mmHg
   Total In:
                                                                  1,128 mL
                                                                  2,337 mL
   PO:
   TF:
   IVF:
                                                                  1,128 mL
                                                                  2,337 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    380 mL
   Urine:
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                  1,957 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/44/140/29/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 470
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, Left IJ in place
   Cardiovascular: RRR w/o mrg
   Respiratory / Chest: Distant lung sounds, equal bilaterally, rhonchi
   audible
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, No Rash
   Neurologic: Follows simple commands, responds to questions
   Labs / Radiology
   149 K/uL
   7.9 g/dL
   222 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.8 mEq/L
   57 mg/dL
   111 mEq/L
   147 mEq/L
   25.3 %
   10.4 K/uL
        [image002.jpg]
                            [**2121-1-9**]  08:21 PM
                            [**2121-1-10**]  03:30 AM
   WBC
   10.4
   Hct
   25.3
   Plt
   149
   Cr
   1.4
   TCO2
   40
   Glucose
   207
   222
   Other labs: PT / PTT / INR:12.8/24.0/1.1, Differential-Neuts:93.4 %,
   Band:0.0 %, Lymph:3.5 %, Mono:2.7 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L,
   Ca++:6.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Legionella Urinary Antigen  (Final [**2121-1-10**]):
         NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   [**2121-1-9**] Blood cx pending
   [**2121-1-9**] Urine cx pending
   Respiratory cx pending
   Assessment and Plan
   Mr. [**Known lastname 1380**] is a 63 year-old male smoker with a history of severe COPD on
   home oxygen (4L), DM2, prior PEA arrest who presented from home with
   dypnea and respiratory failure, now intubated and sedated.
   # Hypoxic/hypercapneic respiratory failure:  Likely secondary to
   pneumonia and COPD flare.  Patient has history of multiple COPD
   exacerbations and pneumonia episodes in past and continues to smoke.
   DDx includes bacterial or viral pna, e.g. influenza, PCP given chronic
   steroids, acute heart failure.  Currently on AC ventilation, and most
   recent blood gas shows pC02 of 44.  Likely needs higher PC02 to drive
   respirations, so will decrease RR at this time.
   - Decrease RR on ventilator to 12 (from 22) to encourage respiratory
   drive
   - Monitor ABGs
   - Bronch today with BAL for PCP
   [**Name Initial (PRE) **] Continue [**Name9 (PRE) 898**], Zosyn, azithro
   - Continue Tamiflu and rule out for flu
   - Urine legionella negative
   - Standing nebs/inhalers after extubation
   - Will consider invasive aspergillosis
   - BNP 273 not c/w severe heart failure as cause
   - Daily CXR
   - FU blood cultures, urine cultures
   # Sepsis:  Met SIRS criteria with fever, leukocytosis, tachypnea prior
   to intubation, and has likely source of infection with lung
   infiltrate.  Would also consider other possible etiologies such as UTI,
   abscess, endocarditis.
   - management of respiratory failure as above
   - continue fluid resuscitation as needed, appears to be maintaining
   blood pressures without pressors at this time
   # Acute renal failure:  Creatinine 0.7 at baseline but was 1.7 on [**1-6**]
   at rehab.  Remains in ARF, although creatinine improved with IVF and
   likely related to prerenal etiology.  DDx includes hypovolemia,
   hypoperfusion from sepsis, ATN, medication toxicity; less likely are
   vasculitis, post-renal etiologies.
   - follow UOP; foley in place
   - urine lytes pending
   - renally dose meds
   - will check pm lytes
   # Anemia: Hct dropped from 34.2 to 25.3 in the setting of aggressive
   fluid resuscitation and multiple line placements.  Most likely
   dilutional but some concern for bleeding
   - guaiac stools
   - repeat Hct in pm
   # Diastolic heart failure:  No evidence of volume overload on CXR.
   - hold lasix in setting of sepsis
   # Hypertension:
   - hold Norvasc, Lisinopril in setting of sepsis
   ICU Care
   Nutrition: Will start tube feeds today
   Glycemic Control:  Started insulin sliding scale
   Lines:
   18 Gauge - [**2121-1-9**] 09:43 PM
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments: bowel regimen
   Communication:  Comments: [**Name (NI) 5025**] [**Name (NI) 1380**] wife [**Telephone/Fax (1) 10943**]
   Code status: Full code (has discussed DNR with Dr. [**Last Name (STitle) 1136**] in the past)
   Disposition: [**Hospital Unit Name 44**]

2121-01-10 09:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2121-1-9**] 10:00 PM
 MULTI LUMEN - START [**2121-1-10**] 01:29 AM
 ARTERIAL LINE - START [**2121-1-10**] 04:15 AM
   [**Last Name (LF) 2643**], [**First Name3 (LF) **] line, fluid boluses.
                                      Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin - [**2121-1-9**] 11:39 PM
   Azithromycin - [**2121-1-10**] 12:42 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   albuterol, ipratropium, azithro, vanco, bowel reg, fent, midaz,
   methylpred 60 q 8, SQI, PPI, statin, zosyn, SQH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-10**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.1
C (97
   HR: 64 (64 - 84) bpm
   BP: 101/56(72) {68/51(58) - 103/58(73)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (8 - 18)mmHg
   Total In:
                                                                  1,128 mL
                                                                  2,396 mL
   PO:
   TF:
   IVF:
                                                                  1,128 mL
                                                                  2,366 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    560 mL
   Urine:
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                  1,836 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 0 cmH2O
   Compliance: -104.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/44/140/30/3
   Ve: 10.3 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   149 K/uL
   222 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.8 mEq/L
   57 mg/dL
   111 mEq/L
   147 mEq/L
   25.3 %
   10.4 K/uL
        [image002.jpg]
                            [**2121-1-9**]  08:21 PM
                            [**2121-1-10**]  03:30 AM
                            [**2121-1-10**]  07:25 AM
   WBC
   10.4
   Hct
   25.3
   Plt
   149
   Cr
   1.4
   TCO2
   40
   29
   Glucose
   207
   222
   Other labs: PT / PTT / INR:12.8/24.0/1.1, Differential-Neuts:93.4 %,
   Band:0.0 %, Lymph:3.5 %, Mono:2.7 %, Eos:0.3 %, Lactic Acid:0.8 mmol/L,
   Ca++:6.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Imaging: CXR with increasing basilar R>L infiltrates
   Microbiology: pending
   Assessment and Plan
   64-year-old man with
          Respiratory failure
          Pneumonia (HCAP)
          Possible influenza
          Severe COPD (FEV1 0.57)
          Acute renal failure
          Hypotension
 resolved
          Anemia
          Hypophosphatemia
   This may be influenza, bacterial pneumonia, or even PCP or aspergillus
   (which appears to be an emerging infectious disease in patients with
   severe COPD.  We will test and treat for influenza and bacterial
   pneumonia at this point.  We will pursue bronchoscopy for microbiologic
   diagnosis.  If no clear diagnosis from rapid tests, send galactomannan
   and beta-glucan.
   Will treat for COPD exacerbation with steroids, bronchodilators, and
   antibiotics.
   His acute renal failure seems to have been hypovolemic/hemodynamic and
   is improving.
   Will decrease respiratory rate on the ventilator to allow his pCO2 to
   rise and pH to fall, until he is just overbreathing the ventilator.
   This will also likely improve his autoPEEP (total PEEP presently 10).
   Watch lytes and Hct for now.
   Other issues as per ICU team note today.
   ICU Care
   Nutrition:
   Comments: start TF
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-1-9**] 09:43 PM
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2121-01-11 07:56:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4944**] PROGRESS NOTE
   Chief Complaint: COPD exacerbation
   24 Hour Events:
 EKG - At [**2121-1-10**] 05:24 PM
 BRONCHOSCOPY - At [**2121-1-11**] 04:35 AM
   - baseline hypercarbic, so decreasing rate on vent to 12 from 22
   - checking serial ABGs
   - holding lasix, outpt antiHTN meds, Cr improving w IVF
   - weaned FiO2 from 100% to 50%
   - got bronched by Dr. [**Last Name (STitle) 832**] at 2am- he wanted patient back on
   respiratory precautions altho flu swab negative
   - K was 5.8 in AM but hemolyzed, will recheck
   - 12 lead EKG shows bradycardia, probably junctional rhythm
   Allergies:
   Bactrim (Oral) -- (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin - [**2121-1-9**] 11:39 PM
   Vancomycin - [**2121-1-10**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-11**] 12:05 AM
   Azithromycin - [**2121-1-11**] 02:14 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-10**] 04:00 PM
   Pantoprazole (Protonix) - [**2121-1-10**] 07:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-11**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 57 (50 - 75) bpm
   BP: 135/65(82) {135/65(82) - 135/65(82)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 182 (8 - 182)mmHg
   Total In:
                                                                  3,422 mL
                                                                  1,495 mL
   PO:
   TF:
   IVF:
                                                                  3,182 mL
                                                                  1,455 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    420 mL
   Urine:
                                                                  1,460 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,962 mL
                                                                  1,075 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 18 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/54/150/25/2
   Ve: 5 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, Left IJ in place
   Cardiovascular: RRR w/o mrg
   Respiratory / Chest: Distant lung sounds, equal bilaterally, rhonchi
   audible
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, No Rash
   Neurologic: Follows simple commands, responds to questions
   Labs / Radiology
   157 K/uL
   8.5 g/dL
   186 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.8 mEq/L
   54 mg/dL
   110 mEq/L
   144 mEq/L
   27.3 %
   9.0 K/uL
        [image002.jpg]
                            [**2121-1-9**]  08:21 PM
                            [**2121-1-10**]  03:30 AM
                            [**2121-1-10**]  07:25 AM
                            [**2121-1-10**]  12:00 PM
                            [**2121-1-10**]  02:47 PM
                            [**2121-1-11**]  03:26 AM
                            [**2121-1-11**]  03:51 AM
   WBC
   10.4
   10.4
   9.0
   Hct
   25.3
   25.2
   27.3
   Plt
   149
   154
   157
   Cr
   1.4
   1.3
   1.3
   TCO2
   40
   29
   30
   30
   Glucose
   [**Telephone/Fax (3) 10953**]86
   Other labs: PT / PTT / INR:11.8/23.7/1.0, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:3.8 %, Mono:1.8 %, Eos:0.6 %, Lactic Acid:0.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1380**] is a 63 year-old male smoker with a history of severe COPD on
   home oxygen (4L), DM2, prior PEA arrest who presented from home with
   dypnea and respiratory failure, now intubated and sedated.
   # Hypoxic/hypercapneic respiratory failure:  Likely secondary to
   pneumonia and COPD flare.  Patient has history of multiple COPD
   exacerbations and pneumonia episodes in past and continues to smoke.
   DDx includes bacterial or viral pna, e.g. influenza, PCP given chronic
   steroids, acute heart failure.  Currently on AC ventilation, and most
   recent blood gas shows pC02 of 44.  Likely needs higher PC02 to drive
   respirations, so will decrease RR at this time.
   - Decrease RR on ventilator to 12 (from 22) to encourage respiratory
   drive
   - Monitor ABGs
   - Bronch today with BAL for PCP, f/u cx
   - Continue vanc, Zosyn, azithro for PNA day 2 of 8
   - d/c tamiflu, droplet precautions (negative for flu)
   - Urine legionella negative
   - Standing nebs/inhalers after extubation
   - Will consider invasive aspergillosis
   - BNP 273 not c/w severe heart failure as cause
   - Daily CXR
   - FU blood cultures, urine cultures
   # Sepsis:  Met SIRS criteria with fever, leukocytosis, tachypnea prior
   to intubation, and has likely source of infection with lung
   infiltrate.  Would also consider other possible etiologies such as UTI,
   abscess, endocarditis.
   - management of respiratory failure as above
   - continue fluid resuscitation as needed, appears to be maintaining
   blood pressures without pressors at this time
   # Acute renal failure:  Creatinine 0.7 at baseline but was 1.7 on [**1-6**]
   at rehab.  Remains in ARF, although creatinine improved with IVF and
   likely related to prerenal etiology.  DDx includes hypovolemia,
   hypoperfusion from sepsis, ATN, medication toxicity; less likely are
   vasculitis, post-renal etiologies.
   - follow UOP; foley in place
   - urine lytes pending
   - renally dose meds
   - will check pm lytes
   # Diastolic heart failure:  No evidence of volume overload on CXR.
   - hold lasix in setting of sepsis
   # Hypertension:
   - hold Norvasc, Lisinopril in setting of sepsis
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Started insulin sliding scale
   Lines:
   18 Gauge - [**2121-1-9**] 09:43 PM
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments: bowel regimen
   Communication:  Comments: [**Name (NI) 5025**] [**Name (NI) 1380**] wife [**Telephone/Fax (1) 10943**]
   Code status: Full code (has discussed DNR with Dr. [**Last Name (STitle) 1136**] in the past)
   Disposition: [**Hospital Unit Name 44**]

2121-01-11 08:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2121-1-10**] 05:24 PM
 BRONCHOSCOPY - At [**2121-1-11**] 04:35 AM--patent air spaces
   -Vent rate decreased overnight
   -FIO2 decreased overnight
   History obtained from Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin - [**2121-1-9**] 11:39 PM
   Vancomycin - [**2121-1-10**] 10:00 PM
   Azithromycin - [**2121-1-11**] 02:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-11**] 08:20 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-1-11**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2121-1-11**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Bradycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-1-11**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 34.6
C (94.3
   HR: 58 (50 - 75) bpm
   BP: 169/79(113) {98/52(65) - 169/133(146)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 17 (8 - 182)mmHg
   Total In:
                                                                  3,423 mL
                                                                  1,674 mL
   PO:
   TF:
   IVF:
                                                                  3,183 mL
                                                                  1,574 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    540 mL
   Urine:
                                                                  1,460 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,963 mL
                                                                  1,134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/54/150/25/2
   Ve: 6.9 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   157 K/uL
   186 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.8 mEq/L
   54 mg/dL
   110 mEq/L
   144 mEq/L
   27.3 %
   9.0 K/uL
        [image002.jpg]
                            [**2121-1-9**]  08:21 PM
                            [**2121-1-10**]  03:30 AM
                            [**2121-1-10**]  07:25 AM
                            [**2121-1-10**]  12:00 PM
                            [**2121-1-10**]  02:47 PM
                            [**2121-1-11**]  03:26 AM
                            [**2121-1-11**]  03:51 AM
   WBC
   10.4
   10.4
   9.0
   Hct
   25.3
   25.2
   27.3
   Plt
   149
   154
   157
   Cr
   1.4
   1.3
   1.3
   TCO2
   40
   29
   30
   30
   Glucose
   [**Telephone/Fax (3) 10953**]86
   Other labs: PT / PTT / INR:11.8/23.7/1.0, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:3.8 %, Mono:1.8 %, Eos:0.6 %, Lactic Acid:0.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR-ETT at 7cm, bilateral lower lobe opacities.
   Microbiology: No new results
   Flu-Negative
   Legionella-Negative
   Assessment and Plan
   63 yo male with severe COPD now admitted with respiratory failure
   following recent return to home from rehab.   This is concerning for
   pulmonary based infection with trigger of exacerbation of patient's
   reactive airways disease.
   1)Respiratory Failure-Patient is wide awake making pulmonary mechanics
   difficult to assess.  He does have markedly decreased breath sounds
   bilaterally and symmetrically.  He is able to interact quite
   appropriately.  He does not have significant fever/bandemia through to
   today making widespread pneumonia less likely  perhaps.  He will need
   to be maintained on FIO2 and Ve target.  At admission patient had
   evidence of acute infection which now has been further investigated
   with bronchoscopy.
   -Will move to PSV this morning and have decreased PEEP in the absence
   of active autopeep.
   -Will re-evaluate his ABG following 30 minutes on PSV
   -Will move to SBT this morning if able to tolerate PSV.
   -If appropriate for extubation with stability of oxygenation and
   ventilation will consider BIPAP following extubation both acutely and
   over longer course.
   -His Ve is [**8-21**] lpm and he has very good mental status
   2)CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION-
   -Albuterol/Atrovent
   -Methylprednisolone 80mg tid
Move to 60mg tid
   -Follow exam
   3)Pnuemonia
   -Azithro/Zosyn/Vanco
   -Influenza precautions and await bronchoscopy results
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2121-1-9**] 09:43 PM
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2121-01-12 07:14:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - K was 5.8 in AM, hemolysed, repeat K 4.5
   - 12 lead EKG shows bradycardia, probable junctional rhythm
   - Methylpred dose decreased to 60mg q 8hrs
   - Did not tolerate PS 5/5, ABG 7.27/66/91/32/0 (pt. baseline pH 7.35
   and high 50s for CO2), so was returned to PS 10/10/50% and deferred
   extubation.
   -[**2-16**] aerobic bottles with GPCs
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin - [**2121-1-9**] 11:39 PM
   Vancomycin - [**2121-1-11**] 09:48 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-12**] 12:33 AM
   Azithromycin - [**2121-1-12**] 01:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-1-11**] 07:56 PM
   Heparin Sodium (Prophylaxis) - [**2121-1-12**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-12**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.5
   HR: 70 (58 - 87) bpm
   BP: 172/72(117) {117/61(81) - 183/91(265)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 20 (8 - 27)mmHg
   Total In:
                                                                  2,475 mL
                                                                    508 mL
   PO:
   TF:
                                                                     78 mL
                                                                     70 mL
   IVF:
                                                                  2,077 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    501 mL
   Urine:
                                                                  1,500 mL
                                                                    501 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 475 (337 - 555) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 20 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.34/53/90.[**Numeric Identifier 128**]/26/0 @ [**1-11**] 8pm
   Ve: 8.1 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, Left IJ in place
   Cardiovascular: RRR w/o mrg
   Respiratory / Chest: Distant lung sounds, equal bilaterally, rhonchi
   audible
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, No Rash
   Neurologic: Follows simple commands, responds to questions, asks to
   have ETT removed
   Labs / Radiology
   178 K/uL
   8.6 g/dL
   247 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.6 mEq/L
   54 mg/dL
   112 mEq/L
   145 mEq/L
   26.2 %
   9.1 K/uL
        [image002.jpg]
                            [**2121-1-10**]  07:25 AM
                            [**2121-1-10**]  12:00 PM
                            [**2121-1-10**]  02:47 PM
                            [**2121-1-11**]  03:26 AM
                            [**2121-1-11**]  03:51 AM
                            [**2121-1-11**]  09:50 AM
                            [**2121-1-11**]  01:20 PM
                            [**2121-1-11**]  03:02 PM
                            [**2121-1-11**]  08:11 PM
                            [**2121-1-12**]  03:24 AM
   WBC
   10.4
   9.0
   9.1
   Hct
   25.2
   27.3
   26.2
   Plt
   154
   157
   178
   Cr
   1.3
   1.3
   1.2
   TCO2
   29
   30
   30
   31
   30
   32
   30
   Glucose
   144
   186
   247
   Other labs: PT / PTT / INR:11.7/23.3/1.0, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:3.8 %, Mono:1.8 %, Eos:0.6 %, Lactic Acid:0.6 mmol/L,
   Ca++:7.3 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   [**2121-1-9**]:
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2121-1-12**]):
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 5:43A [**2121-1-12**].
      GRAM POSITIVE COCCI.
      IN PAIRS AND CLUSTERS.
[**2121-1-9**] 10:24 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab.
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2121-1-10**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, [**Month/Day/Year **] A, B,
      and RSV by immunofluorescence.
[**2121-1-11**]: 4:24 am BRONCHIAL WASHINGS
   GRAM STAIN (Final [**2121-1-11**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2121-1-11**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   FUNGAL CULTURE (Preliminary):
   ACID FAST SMEAR (Preliminary):
   ACID FAST CULTURE (Preliminary):
[**2121-1-11**] 4:26 am Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2121-1-11**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, [**Month/Day/Year **] A, B,
      and RSV by immunofluorescence.
   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   Assessment and Plan
   Mr. [**Known lastname 1380**] is a 63 year-old smoker with severe COPD on 4L home O2, DM2,
   prior PEA arrest who presented from home with dypnea and respiratory
   failure, now intubated and sedated. Etiology of Respiratory failure
   likely [**3-18**] PNA & COPD exacerbation.
   # Hypoxic/hypercapneic respiratory failure:  Likely secondary to
   pneumonia and COPD flare.  Patient has history of multiple COPD
   exacerbations and pneumonia episodes in past and continues to smoke.
   DDx includes bacterial or viral pna, e.g. [**Month/Day (2) 1845**], PCP given chronic
   steroids, acute heart failure.  Did well on AC and doing well of PS
   [**11-23**], hypercarbic back to baseline.
   - Trial of pressure support-> spontaneous breathing trial
   - Attempt to extubate to BiPAP if tolerated
   - Monitor ABGs
   - f/u BAL for cx, pcp, [**Name10 (NameIs) 1845**]
   [**Name Initial (NameIs) **] Continue vanc, Zosyn, azithro for PNA day 3 of 8 (azithro day 3 of 5)
   - Standing nebs/inhalers after extubation
   - Daily CXR
   - FU blood cultures, urine cultures
   - Not requiring pressors, bp actually high this am
   # Acute renal failure:  Creatinine 0.7 at baseline but was 1.7 on [**1-6**]
   at rehab.  Now improving as most recent Cr is 1.2, after fluid boluses,
   likely pre-renal. DDx includes hypovolemia, hypoperfusion from sepsis,
   ATN, medication toxicity; less likely are vasculitis, post-renal
   etiologies.
   - follow UOP; foley in place
   - renally dose meds
   # Diastolic heart failure:  No evidence of volume overload on CXR.
   - hold lasix in setting of sepsis
   # Hypertension: Starting to be hypertensive
   - will restart Norvasc as patient no longer septic and hypertensive at
   this time
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2121-1-11**] 04:15 PM 10 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   18 Gauge - [**2121-1-9**] 09:43 PM
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments: bowel regimen
   Communication:  Comments: [**Name (NI) 5025**] [**Name (NI) 1380**] wife [**Telephone/Fax (1) 10943**]
   Code status: Full code (has discussed DNR with Dr. [**Last Name (STitle) 1136**] in the past)
   Disposition: [**Hospital Unit Name 44**]

2121-01-12 12:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient maintained on ventilator acoss the night
   [**2-16**] with GPC's on culture
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin - [**2121-1-9**] 11:39 PM
   Azithromycin - [**2121-1-12**] 01:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-12**] 08:35 AM
   Vancomycin - [**2121-1-12**] 08:59 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-1-12**] 08:35 AM
   Heparin Sodium (Prophylaxis) - [**2121-1-12**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2121-1-12**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96.1
   HR: 85 (61 - 87) bpm
   BP: 180/76(117) {117/61(81) - 193/91(265)} mmHg
   RR: 20 (14 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 15 (8 - 27)mmHg
   Total In:
                                                                  2,475 mL
                                                                  1,167 mL
   PO:
   TF:
                                                                     78 mL
                                                                    119 mL
   IVF:
                                                                  2,077 mL
                                                                    809 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    771 mL
   Urine:
                                                                  1,500 mL
                                                                    771 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                    396 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (337 - 605) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.32/58/98.[**Numeric Identifier 248**]/26/1
   Ve: 7.7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   178 K/uL
   247 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.6 mEq/L
   54 mg/dL
   112 mEq/L
   145 mEq/L
   26.2 %
   9.1 K/uL
        [image002.jpg]
                            [**2121-1-10**]  12:00 PM
                            [**2121-1-10**]  02:47 PM
                            [**2121-1-11**]  03:26 AM
                            [**2121-1-11**]  03:51 AM
                            [**2121-1-11**]  09:50 AM
                            [**2121-1-11**]  01:20 PM
                            [**2121-1-11**]  03:02 PM
                            [**2121-1-11**]  08:11 PM
                            [**2121-1-12**]  03:24 AM
                            [**2121-1-12**]  09:53 AM
   WBC
   10.4
   9.0
   9.1
   Hct
   25.2
   27.3
   26.2
   Plt
   154
   157
   178
   Cr
   1.3
   1.3
   1.2
   TCO2
   30
   30
   31
   30
   32
   30
   31
   Glucose
   144
   186
   247
   Other labs: PT / PTT / INR:11.7/23.3/1.0, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:3.8 %, Mono:1.8 %, Eos:0.6 %, Lactic Acid:0.6 mmol/L,
   Ca++:7.3 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR-ETT, OGT and CVL in good position, have persistent
   bilateral lower lobe opacities.
   Microbiology: [**1-9**]--GPC in P+C
   Viral antigen screen negative
   Bronchial washings--mixed flora on gram stain, cultures pending.
   Assessment and Plan
   63 yo male with history of COPD and Obesity now with hypoxemic and
   hypercarbic respiratory failure.  He did have trial of move to
   extubation yesterday but was limited by drop in Vt and resulting rise
   in PCO2 leading to concern that patient not at optimal in regards to
   liberation from mechanical ventilation.  This has improved across the
   night and the patient does retain excellent tolerance of minimal
   pressure support levels.
   1)Respiratory Failure-He has had significant improvement in tolerance
   of PSV at 5/5
this is largely attributable to time on treatment for
   COPD exacerbation with steroid, MDI
s and empiric antibiotics.  Will
   move to intermittent positive pressure ventilation across tonight for
   support and to maintain long term support at discharge if there is
   favorable response.
   -Albuterol/Atrovent
   -Solumedrol
   -Vanco/Zosyn/Azithro
for 8 days total
   -Flu testing negative
will D/C precautions
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION)
   -Solumedrol/Albuterol/Atovent
   Bacteremia-
   -Blood cultures
will repeat for follow-up
   -Maintain Vancomycin
   -Will follow current cultures for species and sensitivities.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2121-1-11**] 04:15 PM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-1-9**] 09:43 PM
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
does read 35 points higher than
   cuff pressures
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent:45

2121-01-13 07:02:00 Physician Resident Progress Note
Chief Complaint: dyspnea and respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2121-1-12**] 12:16 PM
 BLOOD CULTURED - At [**2121-1-12**] 12:37 PM
   - Extubated in the morning, transitioned to Bipap machine, then got put
   on Bipap with ventilator but mask didn't fit.  Finally ended up using
   Bipap machine with nasal cannula underneath and this worked well.  Also
   was given 20mg IV Lasix x 1 and some morphine for respiratory distress.
   - DC'ed tamiflu and precautions
   -given total of 55mg Hydralazine, extra 5mg of Amlodipine for HTN
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-12**] 10:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-13**] 12:00 AM
   Azithromycin - [**2121-1-13**] 12:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-1-12**] 08:35 AM
   Heparin Sodium (Prophylaxis) - [**2121-1-12**] 04:11 PM
   Furosemide (Lasix) - [**2121-1-12**] 09:07 PM
   Morphine Sulfate - [**2121-1-12**] 09:07 PM
   Other medications:
   Alendronate Sodium 3. Albuterol 0.083% Neb Soln 4. Amlodipine 5.
   Amlodipine 6. Aspirin 7. Atovaquone Suspension
   8. Azithromycin 9. Calcium Carbonate 10. Chlorhexidine Gluconate 0.12%
   Oral Rinse 11. Dextrose 50%
   12. Docusate Sodium 13. Fentanyl Citrate 14. Ferrous Sulfate 15.
   Furosemide 16. Glucagon 17. Heparin
   18. HydrALAzine 19. HydrALAzine 20. HydrALAzine 21. Insulin 22.
   Ipratropium Bromide Neb 23. MethylPREDNISolone Sodium Succ
   24. Midazolam 25. Morphine Sulfate 26. Multivitamins 27. Pantoprazole
   28. Piperacillin-Tazobactam
   29. Senna 30. Simvastatin 31. Sodium Chloride 0.9% Flush 32. Vancomycin
   33. Vitamin D
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no CP, SOB, mild cough, nonproductive, no abd pain
   or other pain, wants to eat
   Flowsheet Data as of  [**2121-1-13**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 76 (74 - 140) bpm
   BP: 154/65(100) {150/65(98) - 193/97(131)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 100.9 kg
   Height: 68 Inch
    CVP: 13 (3 - 41)mmHg
   Total In:
                                                                  2,037 mL
                                                                    385 mL
   PO:
                                                                    450 mL
   TF:
                                                                    200 mL
   IVF:
                                                                  1,147 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  2,821 mL
                                                                  1,160 mL
   Urine:
                                                                  2,821 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -784 mL
                                                                   -776 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (605 - 605) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40% (3L NC)
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: 7.36/59/86.[**Numeric Identifier 96**]/32/5
   Ve: 7.7 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen: NAD, sleeping, easily aroused, SBP to 200s when startled, remained
   180s during exam
   CV: RRR NL s1/s2 no murmurs
   Pulm: CTA b/l from ant
   Abd: +BS, soft NT ND
   Ext: 1+ LE edema, erythema left leg (appears chronic) dopplerable DP/PT
   b/l, equal hand squeeze
   Labs / Radiology
   214 K/uL
   9.0 g/dL
   214 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.9 mEq/L
   50 mg/dL
   107 mEq/L
   145 mEq/L
   28.7 %
   8.6 K/uL
        [image002.jpg]
                            [**2121-1-11**]  08:11 PM
                            [**2121-1-12**]  03:24 AM
                            [**2121-1-12**]  09:53 AM
                            [**2121-1-12**]  03:24 PM
                            [**2121-1-12**]  05:38 PM
                            [**2121-1-12**]  08:04 PM
                            [**2121-1-12**]  09:18 PM
                            [**2121-1-13**]  12:18 AM
                            [**2121-1-13**]  02:12 AM
                            [**2121-1-13**]  06:19 AM
   WBC
   9.1
   8.6
   Hct
   26.2
   28.7
   Plt
   178
   214
   Cr
   1.2
   1.1
   TCO2
   30
   31
   34
   32
   31
   34
   32
   35
   Glucose
   247
   210
   292
   364
   214
   Other labs: PT / PTT / INR:11.7/22.6/1.0, Differential-Neuts:95.2 %,
   Band:0.0 %, Lymph:2.1 %, Mono:1.5 %, Eos:1.0 %, Lactic Acid:3.2 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:3.1 mg/dL
   Microbiology: blood 11/29 pending
   respiratory viral antigen [**1-11**] neg, CMV pending
   [**1-11**] BAL AF ctx pending, fungal pending, GNR, PCP [**Name Initial (PRE) **]
   [**1-9**] blood
   GPC pairs and clusters [**2-16**], reported [**1-12**] am
   pending [**2-16**]
   Assessment and Plan
 HYPOTHERMIA
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Mr. [**Known lastname 1380**] is a 63 year-old smoker with severe COPD on 4L home O2, DM2,
   prior PEA arrest who presented from home with dypnea and respiratory
   failure, now intubated and sedated. Etiology of Respiratory failure
   likely [**3-18**] PNA & COPD exacerbation.
   # Hypoxic/hypercapneic respiratory failure:  Likely secondary to
   pneumonia and COPD flare.  Patient has history of multiple COPD
   exacerbations and pneumonia episodes in past and continues to smoke.
   DDx includes bacterial or viral pna, e.g. influenza, PCP given chronic
   steroids, acute heart failure.  Continue on steroids at current dose
   for now.  Doing well on NC except desats with movement.
   - f/u BAL for cx
   - Continue vanc, Zosyn, azithro for PNA day 4 of 8 (azithro day 4 of 5)
   - Standing nebs/inhalers
   - Daily CXR
   - FU blood cultures
   - bipap at night
   - ABG in pm given work of breathing
   - Not requiring pressors, bp actually very high this am
   # Hypertension: Hypertensive to 200s.  Consider starting ace-I in
   future with improved renal function.
   - restarted Norvasc as patient no longer septic and hypertensive at
   this time, increased to 10mg daily
   - Hydralazine now bolus, then standing
   - Lasix one time dose, reasses need daily (he is on it at home)
   # Acute renal failure:  Creatinine 0.7 at baseline but was 1.7 on [**1-6**]
   at rehab.  Now improving as most recent Cr is 1.0, likely pre-renal.
   DDx includes hypovolemia, hypoperfusion from sepsis, ATN, medication
   toxicity; less likely are vasculitis, post-renal etiologies.
   - follow UOP; foley in place as pt. unable to use urinal easily
   - renally dose meds
   # Diastolic heart failure:  No evidence of volume overload on CXR.
   -restarting lasix based on daily assessment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 5025**] [**Name (NI) 1380**] wife [**Telephone/Fax (1) 10943**]
   Code status: Full code (has discussed DNR with Dr. [**Last Name (STitle) 1136**] in the past)
   Disp : ICU level of care for now, plan for BP control and reasses
   desats and stability for floor tomorrow

2121-01-13 11:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   COPD with acute exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2121-1-12**] 12:16 PM
 BLOOD CULTURED - At [**2121-1-12**] 12:37 PM
   -Patient with continued negative fluid balance
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-13**] 12:00 AM
   Azithromycin - [**2121-1-13**] 12:30 AM
   Piperacillin - [**2121-1-13**] 07:46 AM
   Vancomycin - [**2121-1-13**] 09:51 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-1-12**] 09:07 PM
   Morphine Sulfate - [**2121-1-12**] 09:07 PM
   Pantoprazole (Protonix) - [**2121-1-13**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2121-1-13**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-13**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 83 (76 - 140) bpm
   BP: 188/73(115) {150/65(98) - 189/97(131)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 100.9 kg
   Height: 68 Inch
   CVP: 10 (3 - 41)mmHg
   Total In:
                                                                  2,037 mL
                                                                  1,017 mL
   PO:
                                                                    450 mL
                                                                    300 mL
   TF:
                                                                    200 mL
   IVF:
                                                                  1,147 mL
                                                                    717 mL
   Blood products:
   Total out:
                                                                  2,821 mL
                                                                  1,580 mL
   Urine:
                                                                  2,821 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -784 mL
                                                                   -563 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.36/59/86.[**Numeric Identifier 96**]/32/5
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
Patient with pursed lip breathing
   clearly, has use of accessory muscles for inspiration and expiration
   both.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   214 K/uL
   214 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.9 mEq/L
   50 mg/dL
   107 mEq/L
   145 mEq/L
   28.7 %
   8.6 K/uL
        [image002.jpg]
                            [**2121-1-11**]  08:11 PM
                            [**2121-1-12**]  03:24 AM
                            [**2121-1-12**]  09:53 AM
                            [**2121-1-12**]  03:24 PM
                            [**2121-1-12**]  05:38 PM
                            [**2121-1-12**]  08:04 PM
                            [**2121-1-12**]  09:18 PM
                            [**2121-1-13**]  12:18 AM
                            [**2121-1-13**]  02:12 AM
                            [**2121-1-13**]  06:19 AM
   WBC
   9.1
   8.6
   Hct
   26.2
   28.7
   Plt
   178
   214
   Cr
   1.2
   1.1
   TCO2
   30
   31
   34
   32
   31
   34
   32
   35
   Glucose
   247
   210
   292
   364
   214
   Other labs: PT / PTT / INR:11.7/22.6/1.0, Differential-Neuts:95.2 %,
   Band:0.0 %, Lymph:2.1 %, Mono:1.5 %, Eos:1.0 %, Lactic Acid:3.2 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR-Bilateral LL opacities and effusions
   Assessment and Plan
   64 yo male with COPD and obesity now admitted with acute respiratory
   failure in the setting of likely pneumonia trigger for failure and now
   with successful extubation.
   1)Respiratory Failure-He has had outstanding response to extubation
   with patient moved to likely baseline status in regards to CO2 at 59.
   Non-invasive support was unfortunately unable to be tolerated but with
   supplemental oxygen alone we have been able to maintain good
   oxygenation.  For COPD with acute exacerbation and pneumonia will
   continue-->
   COPD-Patient with persistent respiratory distress as evidenced by
   Solumedrol 60mg q 8 hours
   Albuterol and Atrovent at standing doses
   Will continue to provide intermittent positive pressure ventilation as
   needed
   Will follow PCO2 for evidence failure and will use BIPAP in that
   setting
   PNEUMONIA-
   Vanco/Zosyn
   PLEURAL EFFUSION-
   Will continue to provide negative fluid balance
   Will continue to manage blood pressure
 HYPOTHERMIA
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   ICU Care
   Nutrition: po intake but limited
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
required given significant and substantial persistent
   respiratory compromise
   Total time spent: 33 minutes

2121-01-14 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -BAL results: 4+PMNs, 2+ GNRs 1 + GPCs in pairs and clusters
   STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA. >100,000 ORGANISMS/ML.,
   sensitive to bactrim.  neg for PCP ----> started ceftaz and asked micro
   to add on sensitivities to other abx (only bactrim reported)
   - PM ABG: 7.40/56/83/36
   - FS >400 at 1830, given 20 humalog.  Adjusted SS.
   - Labetolol 100 mg PO given @1900 for bp 150-190s
   - neg 1.7 L at 2100
   - refused bipap overnight
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-13**] 12:00 AM
   Piperacillin - [**2121-1-13**] 04:00 PM
   Ceftazidime - [**2121-1-13**] 07:35 PM
   Vancomycin - [**2121-1-13**] 10:28 PM
   Azithromycin - [**2121-1-14**] 12:57 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2121-1-13**] 12:10 PM
   Furosemide (Lasix) - [**2121-1-13**] 12:20 PM
   Heparin Sodium (Prophylaxis) - [**2121-1-13**] 04:00 PM
   Pantoprazole (Protonix) - [**2121-1-13**] 07:35 PM
   Other medications:
   Alendronate Sodium 3. Albuterol 0.083% Neb Soln 4. Amlodipine 5.
   Amlodipine 6. Aspirin 7. Atovaquone Suspension
   8. Azithromycin 9. Calcium Carbonate 10. CefTAZidime 11. Dextrose 50%
   12. Docusate Sodium 13. Ferrous Sulfate
   14. Furosemide 15. Glucagon 16. Heparin 17. HydrALAzine 18. HydrALAzine
   19. Insulin 20. Insulin
   21. Ipratropium Bromide Neb 22. Labetalol 23. MethylPREDNISolone Sodium
   Succ 24. Pantoprazole 25. Piperacillin-Tazobactam
   26. Senna 27. Simvastatin 28. Sodium Chloride 0.9% Flush 29. Vancomycin
   30. Vitamin D
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt feels close to baseline respiratory status, no
   CP, no abd pain, had BM this am.
   Flowsheet Data as of  [**2121-1-14**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.2
   HR: 77 (74 - 116) bpm
   BP: 164/71(110) {146/63(97) - 227/217(300)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 100.9 kg
   Height: 68 Inch
    CVP: 14 (4 - 17)mmHg
   Total In:
                                                                  2,130 mL
                                                                    285 mL
   PO:
                                                                    940 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  4,080 mL
                                                                    660 mL
   Urine:
                                                                  4,080 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,950 mL
                                                                   -375 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 96%
   ABG: 7.40/56/82.[**Numeric Identifier 96**]/32/7
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   212 K/uL
   9.0 g/dL
   167
   1.0 mg/dL
   32 mEq/L
   4.7 mEq/L
   42 mg/dL
   108 mEq/L
   148 mEq/L
   28.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2121-1-12**]  03:24 PM
                            [**2121-1-12**]  05:38 PM
                            [**2121-1-12**]  08:04 PM
                            [**2121-1-12**]  09:18 PM
                            [**2121-1-13**]  12:18 AM
                            [**2121-1-13**]  02:12 AM
                            [**2121-1-13**]  06:19 AM
                            [**2121-1-13**]  07:53 PM
                             [**2121-1-14**]  03:32 AM
                             [**2121-1-14**]  06:00 AM
   WBC
   8.6
   8.6
   Hct
   28.7
   28.4
   Plt
   214
   212
   Cr
   1.1
   1.0
   TCO2
   34
   32
   31
   34
   32
   35
   36
   Glucose
   [**Telephone/Fax (3) 10970**]
   Other labs: PT / PTT / INR:11.7/22.6/1.0, Differential-Neuts:91.5 %,
   Band:0.0 %, Lymph:3.3 %, Mono:4.2 %, Eos:0.9 %, Lactic Acid:3.2 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Microbiology: blood 11/29 pending
   RV ctx [**1-11**] neg, CMV pending
   [**1-9**] blood [**2-16**] pending, [**2-16**]    STAPHYLOCOCCUS, COAGULASE NEGATIVE.
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPOTHERMIA
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Mr. [**Known lastname 1380**] is a 63 year-old smoker with severe COPD on 4L home O2, DM2,
   prior PEA arrest who presented from home with dypnea and respiratory
   failure, now intubated and sedated. Etiology of Respiratory failure
   likely [**3-18**] PNA & COPD exacerbation.
   # Hypoxic/hypercapneic respiratory failure,  xanthomonas pna:  Likely
   secondary to pneumonia and COPD flare.  Patient has history of multiple
   COPD exacerbations and pneumonia episodes in past and continues to
   smoke.  DDx includes bacterial or viral pna, e.g. influenza, PCP given
   chronic steroids, acute heart failure.  Doing well on NC except desats
   with movement.
   - f/u BAL for senstivities
   - Continue vanc, Zosyn, day 6 of 8 (azithro day 5 of 5 so d/c today),
   ceftaz day 2
   -confirm bactrim allergy as this would be better [**Doctor Last Name **]
   - Standing nebs/inhalers
   - Daily CXR
   - FU blood cultures
   - bipap at night
   - Not requiring pressors, bp actually very high this am
   # Hypertension: Hypertension continues.
   - restarted home norvasc on [**2-12**]
   -continue hyralazine
   -give 20mg IV lasix now, then restart home dose of 60mg tomorrow with
   goal net neg 1L today
   -start lisinopril 10mg daily
   # Acute renal failure:  Creatinine 0.7 at baseline but was 1.7 on [**1-6**]
   at rehab.  Now improving as most recent Cr is 1.0, likely pre-renal.
   DDx includes hypovolemia, hypoperfusion from sepsis, ATN, medication
   toxicity; less likely are vasculitis, post-renal etiologies.
   - follow UOP; foley in place as pt. unable to use urinal easily
   - renally dose meds
   # Diastolic heart failure:
   -restarting home lasix tomorrow.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:  d/c a-line and CVL today
   20 Gauge - [**2121-1-10**] 12:23 AM
   Multi Lumen - [**2121-1-10**] 01:29 AM
   Arterial Line - [**2121-1-10**] 04:15 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: c/o possible in next 24 hours since appears at baseline
   respiratory status

2121-01-14 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonia
   COPD with acute exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Ceftaz started for new culture results on BAL
   7.4/56/83 on PM ABG off any BIPAP support
   Labetolol for persistent hyertension
   I/O negative 1.5 liters
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin - [**2121-1-13**] 04:00 PM
   Azithromycin - [**2121-1-14**] 12:57 AM
   Ceftazidime - [**2121-1-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-14**] 08:00 AM
   Vancomycin - [**2121-1-14**] 09:37 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2121-1-13**] 12:10 PM
   Furosemide (Lasix) - [**2121-1-13**] 12:20 PM
   Heparin Sodium (Prophylaxis) - [**2121-1-13**] 04:00 PM
   Pantoprazole (Protonix) - [**2121-1-13**] 07:35 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-14**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 99 (74 - 116) bpm
   BP: 182/104(138) {146/63(97) - 227/217(300)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 100.9 kg
   Height: 68 Inch
   CVP: 14 (4 - 17)mmHg
   Total In:
                                                                  2,130 mL
                                                                    946 mL
   PO:
                                                                    940 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    706 mL
   Blood products:
   Total out:
                                                                  4,080 mL
                                                                    780 mL
   Urine:
                                                                  4,080 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,950 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.40/56/82.[**Numeric Identifier 96**]/32/7
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: ), Still with some persistent
   respiratory distress--high RR and use of accessory muscles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   212 K/uL
   167
   1.0 mg/dL
   32 mEq/L
   4.7 mEq/L
   42 mg/dL
   108 mEq/L
   148 mEq/L
   28.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2121-1-12**]  03:24 PM
                            [**2121-1-12**]  05:38 PM
                            [**2121-1-12**]  08:04 PM
                            [**2121-1-12**]  09:18 PM
                            [**2121-1-13**]  12:18 AM
                            [**2121-1-13**]  02:12 AM
                            [**2121-1-13**]  06:19 AM
                            [**2121-1-13**]  07:53 PM
                             [**2121-1-14**]  03:32 AM
                             [**2121-1-14**]  06:00 AM
   WBC
   8.6
   8.6
   Hct
   28.7
   28.4
   Plt
   214
   212
   Cr
   1.1
   1.0
   TCO2
   34
   32
   31
   34
   32
   35
   36
   Glucose
   [**Telephone/Fax (2) 10970**]
   Other labs: PT / PTT / INR:11.7/22.6/1.0, Differential-Neuts:91.5 %,
   Band:0.0 %, Lymph:3.3 %, Mono:4.2 %, Eos:0.9 %, Lactic Acid:3.2 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-L-IJ in place, mild interstitial edema
   Assessment and Plan
   64 yo male with obesity and COPD now admitted with respiratory failure
   in the setting of pneumonia.  He has been able to be extubated but
   retains a significant and persistent tachypnea, bronchospasm and
   dyspnea.  This is most likely related to persistent and significatn
   bronchospasm which may be exacerbated in the setting of modest volume
   overload and chest wall restriction with obesity leaving him with
   persistent respiratory distress.
   1)Respiratory Failure-Secondary to multiple active issues as follows-->
    CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION-
   -Will continue with steroid taper
   -Will continue with Albuterol/Atrovent
   -Will view 4 lpm as baseline O2 requirement
   PNEUMONIA-
   -Zosyn/Azithro/Ceftaz/Vanco but will need to refine
   -I would argue that pathogen from BAL is deserving of continued
   treatment with improvement on antibiotics it is likely covered but will
   pursue sensitivies
   -Would consider Vanco/Zosyn/Ceftaz as reasonable treatment given
   pathogens found and clinical response and will wait for final
   sensitivites from Stenothophomonas
   VOLUME OVERLOAD
   -Will continue with home dosing of Lasix
   -Goal negative one liter by end of day
   2)HYpertension-
   -Amlodipine
   ICU Care
   Nutrition: PO diet with improved intake this morning
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-10**] 01:29 AM-_Will transition to P-IV
s if
   possible, PICC if not
   Arterial Line - [**2121-1-10**] 04:15 AM-_D/C today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2121-01-15 07:23:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: Respiratory Distress
   24 Hour Events:
   - Asked ID about antibiotics, felt that we should stop Zosyn as
   combination with Ceftaz gives double the side effects and has a similar
   spectrum.  Will await sensitivities of his bug to ceftaz and if
   resistant, can talk to allergy about possible Bactrim desensitization
   or challenge.  Per the patient, allergy is related to prior Lasix
   administration so maybe to sulfa.
   - D/c'd aline and IJ
   - Did not have Bipap on overnight
 ARTERIAL LINE - STOP [**2121-1-14**] 05:33 PM
 MULTI LUMEN - STOP [**2121-1-15**] 04:04 AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; reacts
   Last dose of Antibiotics:
   Piperacillin - [**2121-1-13**] 04:00 PM
   Azithromycin - [**2121-1-14**] 12:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-14**] 04:00 PM
   Ceftazidime - [**2121-1-14**] 08:05 PM
   Vancomycin - [**2121-1-14**] 08:45 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-1-14**] 12:43 PM
   Pantoprazole (Protonix) - [**2121-1-14**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2121-1-15**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-15**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 86 (74 - 110) bpm
   BP: 161/73(89) {137/53(73) - 168/84(105)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 100.9 kg
   Height: 68 Inch
             Total In:
                                                                  1,630 mL
                                                                    141 mL
   PO:
                                                                    340 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    900 mL
   Urine:
                                                                  2,680 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,050 mL
                                                                   -759 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94% on 4L
   ABG: ///35/
   Physical Examination
   Gen: NAD, sleeping, easily aroused,
   CV: RRR NL s1/s2 no murmurs
   Pulm: CTA b/l from ant
   Abd: +BS, soft NT ND
   Ext: 1+ LE edema, erythema left leg (appears chronic) dopplerable DP/PT
   b/l, equal hand squeeze
   Labs / Radiology
   211 K/uL
   8.8 g/dL
   171 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.0 mEq/L
   35 mg/dL
   104 mEq/L
   144 mEq/L
   27.7 %
   9.1 K/uL
        [image002.jpg]
                            [**2121-1-13**]  12:18 AM
                            [**2121-1-13**]  02:12 AM
                            [**2121-1-13**]  06:19 AM
                            [**2121-1-13**]  07:53 PM
                             [**2121-1-14**]  03:32 AM
                             [**2121-1-14**]  06:00 AM
                             [**2121-1-14**]  12:00 PM
                             [**2121-1-14**]  05:00 PM
                             [**2121-1-14**]  06:00 PM
                             [**2121-1-15**]  03:43 AM
   WBC
   8.6
   8.6
   9.1
   Hct
   28.7
   28.4
   27.7
   Plt
   [**Telephone/Fax (3) 10990**]
   Cr
   1.1
   1.0
   1.2
   1.0
   TCO2
   32
   35
   36
   Glucose
   292
   364
   214
   188
   167
   338
   [**Telephone/Fax (3) 10991**]
   Other labs: PT / PTT / INR:11.7/22.6/1.0, Differential-Neuts:91.5 %,
   Band:0.0 %, Lymph:3.3 %, Mono:4.2 %, Eos:0.9 %, Lactic Acid:3.2 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   [**2121-1-14**] C Diff negative
   [**2121-1-11**] Respiratory Viral Culture negative, Viral antigen screen
   negative, CMV Viral cx pending
   [**2121-1-11**] BAL gram stain/culture: 4+ PMN, 2+ GNR, 1+ GPC in pairs,
   Culture grew stenotrophomonas (xanthomonas) maltophila >100,000
   organisms, sensitive to Bactrim and Levaquin, other sensitivities
   pending, PCP negative, AFB smear negative, AFB culture pending
[**2121-1-9**] Blood culture 1 of 2 bottle grew CoNS
[**1-9**] and [**1-12**] other blood cx pending
Chest Xray done today
   Assessment and Plan
   Mr. [**Known lastname 1380**] is a 64 year-old smoker with severe COPD on 4L home O2, DM2,
   prior PEA arrest who presented from home with dypnea and respiratory
   failure.  Was intubated and extubated succesfully. Etiology of
   respiratory failure felt to be pneumonia & COPD exacerbation.
   # Hypoxic/hypercapneic respiratory failure:  Likely secondary to
   pneumonia and COPD flare.  BAL culture grew xanthomonas sensitive to
   Bactrim and Levaquin but patient has allergy.  Doing well on NC except
   desats with movement.
   - F/u BAL for senstivities
   - Will switch to Levaquin, today is day 3 of 10 of antibiotics aimed at
   treating xanthomonas
   - Stop Vanc/Ceftaz but if decompensates, consider restarting
   - Standing nebs/inhalers
   - No need for daily CXR
   - FU blood cultures
   - Bipap at night if patient will tolerate
   - Continue prednisone 60mg po daily (day 1 of this dose was [**1-14**]), will
   do slow taper and will look at how he was tapered in the past
   - Smoking cessation counseling
   #. Hypertension: Hypertension continues but has been much more
   controlled on new regimen.  Achieved -1L fluid goal today.
   - Continue home Norvasc 10mg po daily
   - Continue hydralazine 20mg po q6h
   - Have restarted home dose of Lasix 60mg today
   - Continue lisinopril 10mg daily
   # Acute renal failure:  Creatinine 0.7 at baseline but was 1.7 on [**1-6**]
   at rehab.  Now improving as most recent Cr is 1.0, likely was
   pre-renal.
   - follow UOP; foley in place as pt. unable to use urinal easily
   - renally dose meds
   # Diastolic heart failure:
   -restarted home lasix yesterday
   # Type 2 Diabetes Mellitus: Sugars uncontrolled on ISS
   - Restart metformin and glipizide at discharge
   ICU Care
   Nutrition: Cardiac, heart-healthy diabetic diet
   Glycemic Control:  Insulin sliding scale (BS 123-417)
   Lines:  22 Gauge - [**2121-1-14**] 08:47 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Can call out to floor today